US05910506
In 10 ml of dry N,N-dimethylformamide was dissolved 1.0 g (4.1 mmol)of 5-(3,5-dimethylphenylthio)-4-isopropyl-1H-imidazole (X=Y=Me)(9), followed by addition of 330 mg (8.3 mmol)of 60% sodium hydride under ice-cooling. After 5 minutes, 690 mg (4.9 mmol)of methyl iodide was added and the mixture was stirred for 10 minutes. This reaction mixture was poured in ice-water and extracted with diethyl ether. The organic layer was washed with water and dried over sodium sulfate. The solvent was then distilled off under reduced pressure and the residue was fractionated by alumina chromatography (ethyl acetate:n-hexane,=1:1). From the first fraction, 833 mg (yield 79%)of 5-(3,5-dimethylphenylthio)-4-isopropyl-1-methyl-1H-imidazole (X=Y=Me) (10)was recovered as oil.

reactant | 5-(3,5-dimethylphenylthio)-4-isopropyl-1H-imidazole | 4.1 mmol, 1.0 g | CC=1C=C(C=C(C1)C)SC1=C(N=CN1)C(C)C | C14H18N2S
reactant | sodium hydride | 8.3 mmol, 330 mg | [H-].[Na+]
reactant | methyl iodide | 4.9 mmol, 690 mg | CI | CH3I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(3,5-dimethylphenylthio)-4-isopropyl-1-methyl-1H-imidazole | 833 mg, yield 79% | CC=1C=C(C=C(C1)C)SC1=C(N=CN1C)C(C)C | C15H20N2S
